US06139484
Synthesis of bis(2,4,5,6,7,8-hexahydroazulen-2-yl)dimethylsilane
12 ml of a solution of n-butyllithium 2.5 M in hexane are added, at room temperature, to a solution in 100 ml of THF containing 4.1 grams (0.03 moles) of 2,4,5,6,7,8-hexahydroazulene (prepared as described in the copending patent application of the same applicant IT-A-MI 95A 002707). There is an exothermic reaction with the formation of a white solid. The mixture is left under stirring for 2 hours and is then cooled to -70° C. and 1.93 grams (0.015 moles) of dimethyldichlorosilane are added, over a period of about 20 minutes. The temperature is left to rise overnight and a yellow solution is finally obtained.

reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | THF | 0.03 moles, 100 ml, 4.1 grams | C1CCOC1 | C4H8O
reactant | 2,4,5,6,7,8-hexahydroazulene | C=1CC=C2CCCCCC12 | C10H14
reactant | dimethyldichlorosilane | 0.015 moles, 1.93 grams | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | hexane | CCCCCC | C6H14
product | bis(2,4,5,6,7,8-hexahydroazulen-2-yl)dimethylsilane | C=1C(C=C2CCCCCC12)[Si](C)(C)C1C=C2CCCCCC2=C1 | C22H32Si
